series_parallel_R1R2R3R4 - fault test
Vin in 0 DC 10
C1 in a 5.27e-06
R2 a b 2006.560793
R3 a b 3005.097144
R4 b 0 1481.830021
.op
.control
run
print v(a) v(b) v(in)
print @r2[i] @r3[i] @r4[i]
.endc
.end
